US07265104B2
To a solution of 3-{6-[(benzyl-isopropyl-carbamoyl)-methyl]-8,9-difluoro-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indazole-1-carboxylic acid tert-butyl ester (100 mg, 0.137 mmol) in dioxane (1 mL) was added HCl (4.0M in dioxane, 2 mL). The reaction was stirred at room temperature for 24 hours. The volatiles were concentrated in vacuo and the residue was dissolved in CH2Cl2. The organic solution was washed with aqueous NaHCO3 (1×), dried (Na2SO4), filtered and concentrated in vacuo. Purification by preparative chromatography eluting with 5% MeOH in CH2Cl2 provided 45 mg of N-benzyl-2-[8,9-difluoro-4-(1H-indazol-3-ylmethyl)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide. 1H NMR (CD2Cl2) δ 7.92 (m, 1H), 7.04-7.66 (m, 14H), 6.67 (s, 1H), 4.22-4.96 (m, 6H), 3.91-4.13 (m, 2H), 1.01-1.22 (m, 6H); MS 632.3 (M+1), 630.2 (M−1).

reactant | 3-{6-[(benzyl-isopropyl-carbamoyl)-methyl]-8,9-difluoro-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indazole-1-carboxylic acid tert-butyl ester | 0.137 mmol, 100 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=C(C(=C2)F)F)CC(N(C(C)C)CC2=CC=CC=C2)=O)=O | C41H39F2N7O4
reactant | HCl | 4.0M, 2 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-benzyl-2-[8,9-difluoro-4-(1H-indazol-3-ylmethyl)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-acetamide | 45 mg | C(C1=CC=CC=C1)N(C(CN1C2=C(N3C(=NN=C3C(C1=O)CC1=NNC3=CC=CC=C13)C1=CC=CC=C1)C=C(C(=C2)F)F)=O)C(C)C | C36H31F2N7O2
